data/polar.json
{"reaction_name": "Oxa-Michael addition", "rsmi": "[C:1](#[N:8])[C:17]([C:2]#[N:9])=[CH:3][c:19]1[cH:4][cH:11][cH:20][cH:12][cH:5]1.[O-:6][N+:18]([O-:7])=[C:15]1[CH:14]=[CH:22][CH:13]=[CH:16][C:21]1=[O:10]>>[C:1](=[N-:8])=[C:17]([C:2]#[N:9])[CH:3]([O:10][c:21]1[c:15]([N+:18](=[O:6])[O-:7])[cH:14][cH:22][cH:13][cH:16]1)[c:19]1[cH:4][cH:11][cH:20][cH:12][cH:5]1", "epd": [["LP-/Pi+", [6], [18, 6]], ["Pi-/Pi+", [15, 18], [21, 15]], ["Pi-/Sigma+", [10, 21], [10, 3]], ["Pi-/Pi+", [3, 17], [17, 1]], ["Pi-/LP+", [1, 8], [8]]]}
{"reaction_name": "Isothiocyanate trapping by amine", "rsmi": "[CH3:1][N:3]=[C:5]=[S:4].[NH:2]([CH3:6])[H:7]>>[CH3:1][N:3]([C:5]([NH:2][CH3:6])=[S:4])[H:7]", "epd": [["LP-/Sigma+", [2], [2, 5]], ["Pi-/LP+", [3, 5], [3]], ["LP-/Sigma+", [3], [3, 7]], ["Sigma-/LP+", [2, 7], [2]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O-:1][C:19](=[CH:6][c:12]1[cH:16][cH:8][cH:24][cH:9][cH:17]1)[O:21][CH2:25][CH3:15].[O:2]=[S:7](=[O:3])([N:14]=[C:13]=[O:18])[c:22]1[cH:10][cH:4][c:20]([CH3:23])[cH:5][cH:11]1>>[O:1]=[C:19]([CH:6]([c:12]1[cH:16][cH:8][cH:24][cH:9][cH:17]1)[C:13]([N-:14][S:7](=[O:2])(=[O:3])[c:22]1[cH:10][cH:4][c:20]([CH3:23])[cH:5][cH:11]1)=[O:18])[O:21][CH2:25][CH3:15]", "epd": [["LP-/Pi+", [1], [19, 1]], ["Pi-/Sigma+", [6, 19], [6, 13]], ["Pi-/LP+", [13, 14], [14]]]}
{"reaction_name": "Addition to nitrones", "rsmi": "[CH3:1][Mg:3][Br:8].[CH3:2][N+:6]([O-:4])=[CH:5][CH3:7]>>[Br-:8].[CH3:1][CH:5]([N:6]([CH3:2])[O-:4])[CH3:7].[Mg+2:3]", "epd": [["Sigma-/Sigma+", [1, 3], [1, 5]], ["Pi-/LP+", [5, 6], [6]], ["Sigma-/LP+", [3, 8], [8]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:4]1([Cl:23])=[C:38]([Cl:18])[C:39]([Cl:29])=[C:15]([Cl:27])[C:37]([Cl:7])([Cl:8])[C:19]1=[O:24].[c:1]1([B-:36]2([CH:34]([CH3:5])[c:6]3[cH:2][cH:11][cH:28][cH:12][cH:3]3)[O:32][CH2:16][C:26]([CH3:13])([CH3:14])[CH2:17][O:33]2)[cH:30][cH:9][c:35]([C:25]([F:20])([F:21])[F:22])[cH:10][cH:31]1>>[c:1]1([B-:36]2=[O+:32][CH2:16][C:26]([CH3:13])([CH3:14])[CH2:17][O:33]2)[cH:30][cH:9][c:35]([C:25]([F:20])([F:21])[F:22])[cH:10][cH:31]1.[c:4]1([Cl:23])[c:19]([O-:24])[c:37]([Cl:8])[c:15]([Cl:27])[c:39]([Cl:29])[c:38]1[Cl:18].[cH:2]1[c:6]([CH:34]([CH3:5])[Cl:7])[cH:3][cH:12][cH:28][cH:11]1", "epd": [["LP-/Pi+", [32], [36, 32]], ["Sigma-/Sigma+", [34, 36], [34, 7]], ["Sigma-/Pi+", [7, 37], [37, 19]], ["Pi-/LP+", [19, 24], [24]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:8]1([Cl:30])=[C:9]([Cl:31])[C:11](=[O:15])[C:23]([C:34]#[N:38])=[C:24]([C:35]#[N:39])[C:10]1=[O:14].[cH:1]1[cH:3][c:32]([B-:33]2([c:13]3[s:20][c:12]([CH3:22])[cH:16][cH:25]3)[O:6][c:36]3[cH:27][cH:29][cH:28][cH:26][c:37]3[O:7]2)[cH:4][cH:2][c:5]1[C:21]([F:17])([F:18])[F:19]>>[C:8]1([Cl:30])=[C:9]([Cl:31])[C:11](=[O:15])[C:23]([c:13]2[s:20][c:12]([CH3:22])[cH:16][cH:25]2)([C:34]#[N:38])[C:24]([C:35]#[N:39])=[C:10]1[O-:14].[cH:1]1[cH:3][c:32](-[b-:33]2[o+:6][c:36]3[cH:27][cH:29][cH:28][cH:26][c:37]3[o:7]2)[cH:4][cH:2][c:5]1[C:21]([F:17])([F:18])[F:19]", "epd": [["LP-/Pi+", [6], [33, 6]], ["Sigma-/Sigma+", [13, 33], [13, 23]], ["Pi-/Pi+", [23, 24], [24, 10]], ["Pi-/LP+", [10, 14], [14]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:8]1([Cl:35])=[C:9]([Cl:36])[C:13](=[O:18])[C:25]([C:39]#[N:41])=[C:26]([C:40]#[N:42])[C:12]1=[O:17].[c:1]1([B-:22]2([c:23]3[cH:19][c:6]([C:3]([F:29])([F:30])[F:31])[cH:11][c:7]([C:4]([F:32])([F:33])[F:34])[cH:20]3)[O:27][CH2:37][C:21]([CH3:15])([CH3:16])[CH2:38][O:28]2)[s:10][c:5]([CH3:24])[cH:2][cH:14]1>>[C:3]([c:6]1[cH:11][c:7]([C:4]([F:32])([F:33])[F:34])[cH:20][c:23]([B-:22]2=[O+:27][CH2:37][C:21]([CH3:15])([CH3:16])[CH2:38][O:28]2)[cH:19]1)([F:29])([F:30])[F:31].[c:1]1([C:25]2([C:39]#[N:41])[C:13](=[O:18])[C:9]([Cl:36])=[C:8]([Cl:35])[C:12]([O-:17])=[C:26]2[C:40]#[N:42])[s:10][c:5]([CH3:24])[cH:2][cH:14]1", "epd": [["LP-/Pi+", [27], [22, 27]], ["Sigma-/Sigma+", [1, 22], [1, 25]], ["Pi-/Pi+", [25, 26], [26, 12]], ["Pi-/LP+", [12, 17], [17]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[CH2:1]1[CH2:12][CH2:3][NH:23][C:11]2=[N:25][CH2:2][CH2:14][CH2:20][N:17]12.[cH:4]1[cH:10][cH:5][c:6]2[c:13]([o+:7][c:9](-[c:22]3[cH:18][cH:15][cH:24][cH:16][cH:19]3)[cH:8][cH:21]2)[cH:26]1>>[CH2:1]1[CH2:12][CH2:3][NH:23][C:11]2=[N+:17]1[CH2:20][CH2:14][CH2:2][N:25]2[CH:21]1[c:6]2[cH:5][cH:10][cH:4][cH:26][c:13]2[O:7][C:9]([c:22]2[cH:18][cH:15][cH:24][cH:16][cH:19]2)=[CH:8]1", "epd": [["LP-/Pi+", [17], [11, 17]], ["Pi-/Sigma+", [25, 11], [25, 21]], ["Pi-/Pi+", [21, 8], [8, 9]], ["Pi-/LP+", [9, 7], [7]]]}
